US08039479B2
A solution of 8-(5-isopropoxy-2-methyl-4-nitrophenyl)-1,4-dioxaspiro[4.5]dec-7-ene (0.1 mmol) in 2.5 mL of TFA and CH2Cl2 (1:4 v/v), is stirred at room temperature for 6 hours. After workup and silica flash chromatography (hexane/EtOAc 4:1), 4-(5-isopropoxy-2-methyl-4-nitrophenyl)cyclohex-3-enone is obtained. 1H NMR (CDCl3, 400 MHz) δ 7.63 (s, 1H), 6.81 (s, 1H), 5.73 (m, 1H), 4.62 (m, 1H), 3.07 (m, 2H), 2.68 (m, 4H), 2.27 (s, 3H), 1.37 (d, 6H). MS (ES+): 290.13 (M+1)+.

reactant | 8-(5-isopropoxy-2-methyl-4-nitrophenyl)-1,4-dioxaspiro[4.5]dec-7-ene | 0.1 mmol | C(C)(C)OC=1C(=CC(=C(C1)C1=CCC2(OCCO2)CC1)C)[N+](=O)[O-] | C18H23NO5
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(5-isopropoxy-2-methyl-4-nitrophenyl)cyclohex-3-enone | C(C)(C)OC=1C(=CC(=C(C1)C1=CCC(CC1)=O)C)[N+](=O)[O-] | C16H19NO4
